US07863444B2
A mixture of 5-(4-amino-3-methoxyphenyl)-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.025 g, 0.08 mmol), benzyl chloroformate (0.016 g, 0.09 mmol), pyridine (0.50 ml) and dichloromethane (0.50 ml) was stirred at room temperature over the weekend and poured into water. The resulting precipitate was collected by filteration and purified by flash column chromatography on silica using ethyl acetate/n-heptane (9:1) as the mobile phase to give benzyl N-[4-(4-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate as a white solid (0.002 g, 0.004 mmol): 1H NMR (DMSO-d6, 400 MHz) δ 8.64 (s, 1H), 8.13 (s, 1H), 7.74 (d, 1H), 7.34-7.45 (m, 6H), 7.10 (d, 1H), 7.02 (dd, 1H), 6.08 (broad, 2H), 5.16 (s, 2H), 5.08 (m, 1H), 3.86 (s, 3H), 2.11 (m, 2H), 1.91 (m, 4H), 1.69 (m, 2H); MH+458; TLC (ethyl acetate) Rf 0.32; RP-HPLC (Hypersil C18, 5 μm, 200 A, 25 cm; 25%-100% acetonitrile-0.1M ammonium acetate over 25 min 1 ml/min) Rt 19.00 min.

reactant | 5-(4-amino-3-methoxyphenyl)-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.08 mmol, 0.025 g | NC1=C(C=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2CCCC2)OC | C18H21N5O
reactant | benzyl chloroformate | 0.09 mmol, 0.016 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | pyridine | 0.50 ml | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | 0.50 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | benzyl N-[4-(4-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate | 0.004 mmol, 0.002 g | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(OCC2=CC=CC=C2)=O)OC)C2CCCC2 | C26H27N5O3
